US04416895
A mixture of imidazole (27.2 g, 0.4 mol), and benzenesulphonyl chloride (35.3 g, 0.2 mol) in dry tetrahydrofuran (200 ml) was stirred at ambient temperature for 1 h, when the resulting precipitate was removed by filtration. The filtrate was evaporated under reduced pressure and the resulting solid was recrystallised from benzene/petroleum ether (b.p. 40°-60°), to afford 1-(benzenesulphonyl)imidazole, m.p. 82°-83°.

reactant | imidazole | 0.4 mol, 27.2 g | N1C=NC=C1 | C3H4N2
reactant | benzenesulphonyl chloride | 0.2 mol, 35.3 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(benzenesulphonyl)imidazole | C1(=CC=CC=C1)S(=O)(=O)N1C=NC=C1 | C9H8N2O2S
